US07514470B2
N2-(3,4-Dicyanophenyl)-N1-ethyl-N2-(2,2,2-trifluoroethyl)glycinamide
Synthesized in a manner similar to example 3 using N-(3,4-dicyanophenyl)-N-(2,2,2-trifluoroethyl)glycine and ethylamine: MS (ES) m/z 311 (M+1).

reactant | N-(3,4-dicyanophenyl)-N-(2,2,2-trifluoroethyl)glycine | C(#N)C=1C=C(C=CC1C#N)N(CC(=O)O)CC(F)(F)F | C12H8F3N3O2
reactant | ethylamine | C(C)N | C2H7N
product | N2-(3,4-Dicyanophenyl)-N1-ethyl-N2-(2,2,2-trifluoroethyl)glycinamide | C(#N)C=1C=C(C=CC1C#N)N(CC(=O)NCC)CC(F)(F)F | C14H13F3N4O
